US20010027196A1
2-Amino-4-benzylamino-6-furan-2-yl-pyrimidine-5-carbonitrile
From 2-amino-4-(2-furyl)-6-(methylthio)-5-pyrimidinecarbonitrile and benzylamine in ethanol. EI-MS m/e (%): 291 (M+, 100), 290 ([M—H]+, 36), 106 (64), 91 (48).

reactant | 2-amino-4-(2-furyl)-6-(methylthio)-5-pyrimidinecarbonitrile | NC1=NC(=C(C(=N1)C=1OC=CC1)C#N)SC | C10H8N4OS
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
solvent | ethanol | C(C)O | C2H6O
product | 2-Amino-4-benzylamino-6-furan-2-yl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)NCC1=CC=CC=C1)C#N)C=1OC=CC1 | C16H13N5O
